US07576082B2
To a solution of 4-bromo-1-methyl-1H-pyrazole (0.98 g, 6.0 mmol) in tetrahydrofuran (10 mL) at −78° C. was added n-butyllithium (2.5 M in hexanes, 2.76 mL, 6.90 mmol) (Aldrich) dropwisely. The mixture was stirred at −78° C. for 10 minutes. To the obtained brownish solution was added a solution of 6-chloroisatin (0.5 g, 2.76 mmol) (Crescent) in tetrahydrofuran (5 mL). The reaction mixture was warmed up to room temperature and stirred at room temperature for 3 hours. The reaction was quenched with saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate three times. The combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated. The residue was purified by chromatography (ethyl acetate:dichloromethane, 1:1 V/V) to give rac-6-chloro-3-hydroxy-3-(1-methyl-1H-pyrazol-4-yl)-1,3-dihydro-indol-2-one as a yellow solid. (Yield 0.22 g, 30%).

reactant | 4-bromo-1-methyl-1H-pyrazole | 6.0 mmol, 0.98 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | n-butyllithium | 6.90 mmol, 2.5 M, 2.76 mL | C(CCC)[Li]
reactant | 6-chloroisatin | 2.76 mmol, 0.5 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | rac-6-chloro-3-hydroxy-3-(1-methyl-1H-pyrazol-4-yl)-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(C=1C=NN(C1)C)O | C12H10ClN3O2
